US06093732
6-Chloro-N-[(4-chlorophenyl)methyl]-4-hydroxy-8-methyl-3-quinolinecarboxamide
A mixture of 3.0 g of ethyl 6-chloro-4-hydroxy-8-methyl-3-quinolinecarboxylate (Maybridge Chemical Co.) and 7.0 mL of 4-chlorobenzylamine is stirred 3 h at 190° C. The mixture is cooled to 25° C. and is diluted with 35 mL of hexanes. The precipitate is collected by filtration and washed with 10 mL of hexanes. It is dried in a stream of air and then it was recrystallized from 30 mL of glacial acetic acid. It was dried at 20 torr and 100° C. for 20 h. The yield is 1.6 g (40%).

reactant | ethyl 6-chloro-4-hydroxy-8-methyl-3-quinolinecarboxylate | 3.0 g | ClC=1C=C2C(=C(C=NC2=C(C1)C)C(=O)OCC)O | C13H12ClNO3
reactant | 4-chlorobenzylamine | 7.0 mL | ClC1=CC=C(CN)C=C1 | C7H8ClN
product | 6-Chloro-N-[(4-chlorophenyl)methyl]-4-hydroxy-8-methyl-3-quinolinecarboxamide | ClC=1C=C2C(=C(C=NC2=C(C1)C)C(=O)NCC1=CC=C(C=C1)Cl)O | C18H14Cl2N2O2
